Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Seroquel
 
Attending: ___
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ transferred from ___ after being seen there for multiple 
falls in the past 4 days, with finding of SDH. Per nursing home 
report, she has fallen ~5 times in the past 4 days, all 
unwitnessed. Staff reported increasing confusion and gait 
abnormality. Eval at ___ showed ___ without shift, as well 
as
possible offset of C1 over C2 on left side, possibly due to 
patient neck position. She was seen by neurosurgery in the ED, 
who recommend repeat head CT in 6 hours, as well as spine, who 
did not identify any c-spine tenderness or neurologic deficit, 
and recommended soft collar for comfort. Currently no complaints 
of pain or disability.

 
Past Medical History:
PMH: dementia with psychosis, constipation, insomnia, GERD,
esophagitis, anxiety, depression, arthritis, HTN, falls

PSH: unable to obtain
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: T 98.6, HR 90, BP 117/56, RR 18, O2 96ra
Gen: a&o x1, nad, no CTLS spinal tenderness or step-off
CV: rrr, no murmur
Resp: cta bilat, no chest wall tenderness or crepitus
Abd: soft, NT, ND, +BS
Extr: warm, 2+ pulses, L shin with old abrasions

Discharge Physical Exam: 
Vitals: BP: 166/72, HR: 88, RR:20 T: 98.7
General: Alert and interactive, follows commands, forgetful
HEENT: PERRL, normocephalic
CV: RRR
PULM: CTA b/l
ABD: Soft, non-distended, non-tender
Extremities: LLE abrasions, warm, well-perfused
 
Pertinent Results:
___ 01:37AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:37AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-LG
___ 01:37AM URINE  RBC-6* WBC-32* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 01:37AM URINE  MUCOUS-RARE
___ 10:25PM   GLUCOSE-138* UREA N-41* CREAT-1.1 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-22 ANION GAP-16
___ 10:25PM   cTropnT-<0.01
___ 10:25PM   WBC-17.3* RBC-3.59* HGB-11.5 HCT-34.4 MCV-96 
MCH-32.0 MCHC-33.4 RDW-14.0 RDWSD-49.1*
___ 10:25PM   NEUTS-83.3* LYMPHS-9.2* MONOS-6.5 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-14.41* AbsLymp-1.60 AbsMono-1.13* 
AbsEos-0.00* AbsBaso-0.04
___ 10:25PM   PLT COUNT-168
___ 10:25PM   ___ PTT-27.1 ___

Imaging: 

___: EKG:
Baseline artifact. Sinus rhythm with an atrial premature beat 
with aberration versus ventricular premature beat. Late R wave 
progression. No previous tracing available for comparison.  

___: CT L-Spine:
1. Loss of T12 through L3 vertebral body height of uncertain 
chronicity, 
although there is no evidence of prevertebral soft tissue 
swelling or edema to suggest acuity.  However, in the context of 
osteopenia and if clinically indicated and there no 
contraindications, MRI would be more sensitive to acute 
fractures in the setting. 
2. Scoliosis with severe degenerative changes. 
3. Large hiatal hernia. 

___: CT Head:
Unchanged left parietal subdural hematoma with minimal 
effacement of the 
underlying sulci but no shift of normally midline structures. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female who was transferred from 
___ after being seen there for multiple recent falls with 
increasing confusion.  At ___, she was found to have a L SDH 
as well as possible offset of C1 over C2 on left side, possibly 
due to patient neck position. She was admitted to the Acute Care 
Surgery/Trauma service for further medical management.  

On HD1, the patient had a head CT which demonstrated a left 
parietal SDH without shift.  She was evaluated by the 
Neurosurgery team and started on Keppra x 7 days with future 
follow-up in clinic.  The patient had a CT C-spine concerning 
for minimal offset of C1 over C2 on the left side.  On HD1, she 
was evaluated by the Orthopaedics team and they felt that, given 
her lack of neck pain and reassuring neurological examination, 
they did not feel that this finding on CT warranted further
diagnostic evaluation unless the patient becomes symptomatic.

On HD1, the patient was started on a regular diet which was 
well-tolerated.  SQH was held given risk of bleeding with SDH.  
The patient had a UA positive for UTI and she was started on a 5 
day course of Bactrim.  Urine was sent for culture which was 
pending at the time of discharge, but will be followed-up. 

The remainder of the ___ hospital course is summarized by 
systems below: 

Neuro: The patient was alert and oriented throughout 
hospitalization with periods of confusion and forgetfulness as 
per baseline. Pain was managed with oral acetaminophen. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient tolerated a regular diet. Patient's 
intake and output were closely monitored

HEME: The patient's blood counts were closely watched for signs 
of acute bleeding, of which there were none.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 

 
Medications on Admission:
vitamin C, tums, vitamin D3, citalopram, klonopin, Colace, 
multivitamin, omeprazole, miralax, trazodone
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Citalopram 20 mg PO DAILY 
3. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
4. Docusate Sodium 100 mg PO BID 
please hold for loose stool  
5. LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
9. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*8 Tablet Refills:*0
10. ZIPRASidone Hydrochloride 40 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Left subdural hematoma

Secondary:
Urinary tract infection 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after suffering a fall and were found 
to have a left subdural hematoma (head bleed) and a urinary 
tract infection.  You were admitted to the Trauma/Acute Care 
Surgery team for further medical care.

Your subdural hematoma was evaluated by the Neurosurgery team 
and you were started on a one (1) week course of a medication 
called Keppra to prevent seizures. Please follow-up with the 
Neurosurgery team at your listed appointment below.

The Orthopaedic team evaluated your neck for any injury and 
found no concerning findings.  They recommended that you can 
wear a soft collar for comfort, but also recommended that if you 
begin to experience pain in your spine, have numbness, or 
weakness in your extremities, that you call the Orthopaedic 
Spine office for a follow-up appointment (the phone number is 
listed below). 

You were started on an antibiotic called Bactrim to treat your 
urinary tract infection.  Please complete the full course of 
this medicine.  

You are now medically cleared to be discharged back to your 
skilled nursing facility.  Please note the following discharge 
instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms 
 
Followup Instructions:
___